US04335054
Ethyl pentafluorocinnamate
0.0561 g (0.25 millimol) of palladium acetate, 5.76 g (25 millimols) of pentafluorobenzoyl chloride, 2.50 g (25 millimols) of ethyl acrylate and 2.88 g (25 millimols) of N-ethylmorpholine, in 100 ml of xylene, are stirred for 6.5 hours at 130° C. The crude product is distilled in vacuo. 3.9 g (59% of theory) of a colourless liquid (which distils at 61°-64° C./12 Pa) are obtained. Analysis for C11H7F5O2 : calculated C 49.64%, H 2.65%, F 35.69%; found C 49.76%, H 2.72%, F 35.90%.

reactant | pentafluorobenzoyl chloride | 25 millimols, 5.76 g | FC1=C(C(=C(C(=C1C(=O)Cl)F)F)F)F | C7ClF5O
reactant | ethyl acrylate | 25 millimols, 2.50 g | C(C=C)(=O)OCC | C5H8O2
reactant | N-ethylmorpholine | 25 millimols, 2.88 g | C(C)N1CCOCC1 | C6H13NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | palladium acetate | 0.25 millimol, 0.0561 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl pentafluorocinnamate | FC1=C(C(=C(C(=C1C=CC(=O)OCC)F)F)F)F | C11H7F5O2
